US04663331
7-(Dimethylamino)hept-5-ynylamine
In a manner similar to Description 1 (iii) and (iv) reaction of N-5-hexynylphthalimide, paraformaldehyde and dimethylamine, followed by treatment with hydrazine hydrate gave the title compound b.p. 110°-20° C. (0.3 mm Hg).

reactant | N-5-hexynylphthalimide | C(CCCC#C)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO2
reactant | paraformaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrazine hydrate | O.NN
product | 7-(Dimethylamino)hept-5-ynylamine | CN(CC#CCCCCN)C | C9H18N2
